US04166854
To a stirred mixture of 400 g (3.09 moles) of 2-hydroxy-6-chloropyridine and 450 g (3.26 moles) potassium carbonate in 3000 ml acetonitrile was added 551 g (3.08 moles) 1-bromo-3,3-dimethyl-2-butanone. The reaction mixture was stirred at 45°-50° C. for 1.5 hours and then filtered. The solids were washed several times with acetonitrile, the filtrate dried (MgSO4) and the solvent evaporated. Crystallization of the residue from pentane gave 610 g (87% yield) of 1-(6-chloro-2-pyridinyloxy)-3,3-dimethyl-2-butanone. A second recrystallization from pentane gave product melting at 43°-44.5° C.

reactant | 2-hydroxy-6-chloropyridine | 3.09 moles, 400 g | OC1=NC(=CC=C1)Cl | C5H4ClNO
reactant | potassium carbonate | 3.26 moles, 450 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3,3-dimethyl-2-butanone | 3.08 moles, 551 g | BrCC(C(C)(C)C)=O | C6H11BrO
solvent | acetonitrile | 3000 ml | C(C)#N | C2H3N
product | 1-(6-chloro-2-pyridinyloxy)-3,3-dimethyl-2-butanone | 610 g, 87% yield | ClC1=CC=CC(=N1)OCC(C(C)(C)C)=O | C11H14ClNO2
